US08629157B2
Step 1: Synthesis of 2,2-dimethyl-3-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester
To a solution of hydroxypivalic acid methyl ester (4 mL, 31.36 mmol) in dichloromethane (20 mL) is added 3,4-dihydro-2H-pyran (5.84 mL, 63.99 mmol). The reaction mixture is cooled to 0° C. and sulfuric acid on silica gel (125 mg, 0.2 mL sulfuric acid/10 g silica gel) is added and the reaction mixture is stirred at room temperature for 25 minutes. After this time, the reaction mixture is filtered through a glass funnel and concentrated under reduced pressure to yield the title compound. It is used without purification.

reactant | hydroxypivalic acid methyl ester | 31.36 mmol, 4 mL | COC(C(CO)(C)C)=O | C6H12O3
reactant | 3,4-dihydro-2H-pyran | 63.99 mmol, 5.84 mL | O1CCCC=C1 | C5H8O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-3-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester | COC(C(COC1OCCCC1)(C)C)=O | C11H20O4
